US07091220B2
The reaction of 8.5 g (0.100 mol) piperidine and 7.0 g (0.050 mol) 2-chlorobenzaldehyde in accordance with general synthesis instructions 2 and subsequent reaction with 3.9 g (0.050 mol) acetyl chloride in accordance with general synthesis instructions 3 gave 7.1 g (corresponding to 58% of the yield calculated by theory) 1-(2-chloro-benzylidene)-piperidinium chloride.

reactant | piperidine | 0.100 mol, 8.5 g | N1CCCCC1 | C5H11N
reactant | 2-chlorobenzaldehyde | 0.050 mol, 7.0 g | ClC1=C(C=O)C=CC=C1 | C7H5ClO
reactant | acetyl chloride | 0.050 mol, 3.9 g | C(C)(=O)Cl | C2H3ClO
product | 1-(2-chloro-benzylidene)-piperidinium chloride | [Cl-].ClC1=C(C=[N+]2CCCCC2)C=CC=C1 | InChI=1S/C12H15ClN.ClH/c13-12-7-3-2-6-11(12)10-14-8-4-1-5-9-14;/h2-3,6-7,10H,1,4-5,8-9H2;1H/q+1;/p-1
